US05916898
Using an analogous procedure to that described in Example 2 in the section relating to the preparation of starting materials 3-carboxy-8-nitro-4-oxo-3,4-dihydroquinoline was reacted with thionyl chloride and then concentrated aqueous ammonia. The product so obtained was recrystallised from ethanol to give 3-carbamoyl-4-chloro-8-nitroquinoline in 79% yield, mp 277-279° C.

reactant | 3-carboxy-8-nitro-4-oxo-3,4-dihydroquinoline | C(=O)(O)C1C=NC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C10H6N2O5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
product | 3-carbamoyl-4-chloro-8-nitroquinoline | 79% yield | C(N)(=O)C=1C=NC2=C(C=CC=C2C1Cl)[N+](=O)[O-] | C10H6ClN3O3
